US08048909B2
tert-Butyl methyl{[1-(phenylsulfonyl)-5-(3-thienyl)-1H-pyrrol-3-yl]methyl}carbamate
A suspension of tert-butyl {[5-bromo-1-(phenylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate (1.02 g), 3-thienylboronic acid (0.61 g), tetrakis(triphenylphosphine)palladium (0.41 g) and sodium carbonate (0.75 g) in 1,2-dimethoxyethane (25 mL)-water (25 mL) was stirred at 105° C. for 7 hr. After cooling, saturated aqueous sodium hydrogen carbonate was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate, water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=4:1) to give the title compound as a colorless solid (yield 0.90 g, 88%).

reactant | tert-butyl {[5-bromo-1-(phenylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate | 1.02 g | BrC1=CC(=CN1S(=O)(=O)C1=CC=CC=C1)CN(C(OC(C)(C)C)=O)C | C17H21BrN2O4S
reactant | 3-thienylboronic acid | 0.61 g | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | sodium carbonate | 0.75 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | 1,2-dimethoxyethane | 25 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.41 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 25 mL | O | H2O
product | tert-Butyl methyl{[1-(phenylsulfonyl)-5-(3-thienyl)-1H-pyrrol-3-yl]methyl}carbamate | yield 0.90 g, 88% | CN(C(OC(C)(C)C)=O)CC1=CN(C(=C1)C1=CSC=C1)S(=O)(=O)C1=CC=CC=C1 | C21H24N2O4S2
